US07582636B2
8-Bromo-2-(4-tert-butyl-phenyl)-imidazo[1,2-a]pyridine:
2-Amino-3-bromopyridine (0.250 g, 1.45 mmol) and 4-tert-butylphenacyl chloride (0.306 g, 1.45 mmol) were dissolved in isopropanol (4.5 mL) and treated with sodium bicarbonate (0.146 g, 1.74 mmol). The mixture was stirred in a sealed tube at 80° C. for 48 h. The mixture was concentrated under reduced pressure and redissolved in ethyl acetate (30 mL). The organic mixture was washed with water and saturated sodium chloride, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The crude material was purified by flash silica gel chromatography, eluting with 10% acetone/hexane to give 0.370 g (77%) of the title compound. HPLC (Method B): r.t.=10.7 min., purity 100% at 210-370 nm, 99.3% at 252 nm. HRMS: calcd for C17H17BrN2+H+, 329.06478; found (ESI, [M+H]+), 329.0662.

reactant | 2-Amino-3-bromopyridine | 1.45 mmol, 0.250 g | NC1=NC=CC=C1Br | C5H5BrN2
reactant | 4-tert-butylphenacyl chloride | 1.45 mmol, 0.306 g | C(C)(C)(C)C1=CC=C(C(CCl)=O)C=C1 | C12H15ClO
reactant | sodium bicarbonate | 1.74 mmol, 0.146 g | C([O-])(O)=O.[Na+]
solvent | isopropanol | 4.5 mL | C(C)(C)O | C3H8O
product | 8-Bromo-2-(4-tert-butyl-phenyl)-imidazo[1,2-a]pyridine | 0.370 g, 77% | BrC=1C=2N(C=CC1)C=C(N2)C2=CC=C(C=C2)C(C)(C)C | C17H17BrN2
